US08114868B2
3-(4-Bromo-2-oxo-2H-pyridin-1-yl)-2,2-dimethyl-propionic Acid Methyl Ester
3-Bromo-2,2-dimethyl-propionic acid methyl ester (0.75 g) was added to a mixture of 4-bromo-1H-pyridin-2-one (0.55 g) and potassium carbonate (0.75 g) in N,N-dimethylformamide (10 mL) at room temperature. The mixture was heated to 60° C. and stirred at this temperature overnight. After stirring at 80° C. for another 8 h, the mixture was cooled to room temperature and water was added. The resultant mixture was extracted with ethyl acetate and the combined organic extracts were washed with brine and dried (MgSO4). The solvent was evaporated and the residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate 4:1) to afford the title compound; 3-(4-bromo-pyridin-2-yloxy)-2,2-dimethyl-propionic acid methyl ester (0.35 g) was also obtained from this reaction. Yield: 0.29 g (32% of theory); Mass spectrum (ESI+): m/z=288/300 (Br) [M+H]+.

reactant | 3-Bromo-2,2-dimethyl-propionic acid methyl ester | 0.75 g | COC(C(CBr)(C)C)=O | C6H11BrO2
reactant | 4-bromo-1H-pyridin-2-one | 0.55 g | BrC1=CC(NC=C1)=O | C5H4BrNO
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(4-Bromo-2-oxo-2H-pyridin-1-yl)-2,2-dimethyl-propionic Acid Methyl Ester | COC(C(CN1C(C=C(C=C1)Br)=O)(C)C)=O | C11H14BrNO3
